US09278085B2
Ceric ammonium nitrate (90.1 mg, 0.164 mmol) was dissolved into H2O (0.5 mL) and AcCN (0.5 mL) and cooled to 0° C. A solution containing 25.2 mg N-((E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enyl)acetamide (0.0725 mmol) in AcCN (1 mL) and CH2Cl2 (0.25 mL) was added over 0.5 min. The reaction was stirred for 0.75 h at 0° C. then diluted with H2O (2 mL). The layers were separated and the organic phase diluted with EtOAc (5 mL) and washed with H2O (3×2 mL). The combined aqueous phase was back extracted using EtOAc (3×4 mL) and discarded. The combined organics were washed with brine (2×3 mL), dried over Na2SO4, concentrated in vacuo and subjected to flash chromatography (SiO2) gave N-((5E)-5-methyl-7-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)hept-5-enyl)acetamide as a bright yellow liquid. 1H NMR (400 MHz, CDCl3) d 5.61 (br s, 1H), 3.20 (m, 4H), 2.01 (m, 14H), 1.72 (s, 3H), 1.41 (m, 2H). 1C NMR (100 MHz, CDCl3) d 187.9, 187.1, 170.0, 143.1, 140.43 140.37, 136.7, 119.9, 60.1, 39.5, 39.2, 29.1, 25.6, 25.0, 23.3, 16.1, 12.4, 12.2.

reactant | N-((E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enyl)acetamide | 0.0725 mmol, 25.2 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCCNC(C)=O)\C | C21H33NO3
solvent | AcCN | 1 mL | C(=O)(C)C#N | C3H3NO
solvent | CH2Cl2 | 0.25 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 2 mL | O | H2O
solvent | AcCN | 0.5 mL | C(=O)(C)C#N | C3H3NO
solvent | H2O | 0.5 mL | O | H2O
product | N-((5E)-5-methyl-7-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)hept-5-enyl)acetamide | C/C(/CCCCNC(C)=O)=C\CC1=C(C(C(=C(C1=O)C)C)=O)C | C19H27NO3
